US07396933B2
A solution of 2,2,-dimethyl-1,4-dihydro-2H-benzo[1,3]oxazine (125 g, 0.77 mol) in THF (1 L) was filtered through a scintillation funnel and then added dropwise via an addition funnel, over a period of 2.5 h, to a stirred solution of 1.0 M LiAlH4 in THF (800 mL) at 0° C. The reaction was quenched by slow portionwise addition of Na2SO4.10H2O (110 g), over a period of 1.5 h, at 0° C. The reaction mixture was stirred overnight, filtered and the solid salts were washed thoroughly with THF. The filtrate was concentrated under reduced pressure to yield 2-isopropylaminophenylmethanol (120 g, 95%) as a yellow oil. 1H NMR (CDCl3; 300 MHz): 1.24 (d, 6H, CH(CH3)2), 3.15 (bs, 1H, OH), 3.61 (sept, 1H, CH(CH3)2), 4.57 (s, 2H, CH2), 6.59 (t, 1H, ArH), 6.65 (d, 1H, ArH), 6.99 (d, 1H, ArH), 7.15 (t, 1H, ArH).

reactant | 2,2,-dimethyl-1,4-dihydro-2H-benzo[1,3]oxazine | 0.77 mol, 125 g | CC1(OC2=C(CN1)C=CC=C2)C | C10H13NO
reactant | LiAlH4 | 1.0 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 800 mL | C1CCOC1 | C4H8O
product | 2-isopropylaminophenylmethanol | 120 g, 95% | C(C)(C)NC1=C(C=CC=C1)CO | C10H15NO
